* C:\Users\bowbo\OneDrive\Documents\Tom\Uni Year 4\Group\DataGen\DPT\DPT_AGD_IDEALISED_COMP.asc
L§I_Load V_L V_X {Load_Inductance}
XG2 V_D N008 0 TK31Z60X_G2_10
R_D V_X V_D {Drain_Res}
S1 V_L N004 N004 0 MYSW
V_supply N004 0 PULSE({c_v_initial} {c_v_on} {c_T_delay} {c_T_rise} {c_T_fall} {c_T_on} {c_T_period} {c_N_cycles})
B§Total_Loss NC_01 0 V=idt(I(R_D)*V(V_D))*1000000
B§Power NC_02 0 V=I(R_D)*V(V_D)
C_B_1 N001 N005 {C_B_C}
L§C_B_L1 V_L N001 {C_B_ESL}
R1 N005 0 {C_B_ESR}
C_B_2 N002 N006 {C_B_C}
L§C_B_L2 V_L N002 {C_B_ESL}
R2 N006 0 {C_B_ESR}
C_B_3 N003 N007 {C_B_C}
L§C_B_L3 V_L N003 {C_B_ESL}
R3 N007 0 {C_B_ESR}
I1 0 N008 PWL file={x}
D1 V_X V_L D_C4D15120H
C1 V_L 0 0.015µF
C2 V_L 0 0.015µF
.model D D
.lib C:\Users\bowbo\AppData\Local\LTspice\lib\cmp\standard.dio
.lib "TK31Z60X_G2_10_enc.lib"
.model MYSW SW(Ron=1 Roff=1Meg Vt=0 Vh=-.0004)
.tran {total_sim_time}
* Charge Pulse
* Imports and Model Definitions
.param Operating_Voltage=400
.param Driving_Cap=20u
.param Load_Inductance=10u
.param c_v_initial=0
.param c_v_on={Operating_Voltage}
.param c_T_delay=0
.param c_T_rise = 0.1us
.param c_T_fall=0.1us
.param c_T_on =180us
.param c_T_period = 1
.param c_N_cycles=10u
.TEMP 25
* Functions
* Parasitics
.param Freewheeling_Res = 0.1
.param Drain_Res=0.01
.param C_ESR=0.01u
.param C_GD = 0.1p
.param C_GS=0.01p
.param C_DS = 0.1p
.param C_ESL = 0.11p
.param L_D = 0.10n
.param L_S = 0.11p
.param L_G=0.1p
* Critical Parameters
.lib "C4D15120H.lib"
* Component Values
.param C_B_ESL=0.1n
.param C_B_ESR = 5.5m
.param C_B_C=15uF
.meas TRAN I_max FIND I(R_D) AT max_p_t
* Measurements and Timings
.meas TRAN Switching_Energy_Loss PARAM total_loss - pre_pulse_loss
.meas TRAN current_reached MAX I(R_D) FROM c_T_on + transition_t +first_pulse_t TO c_T_on + (2*transition_t) + (2*first_pulse_t)
.meas TRAN PerOvershoot PARAM (I_max/current_reached)*100
.meas TRAN Overshoot PARAM I_max - current_reached
.step param x 0 9 1
.meas TRAN WriteData WRITE Switching_Energy_Loss Overshoot
* These timings need to correspond to the parameters set in the wave generation config file.
.param transition_t = 0.1ns
.param first_pulse_t = 130ns
.param off_time = 130ns
.param total_sim_time=c_T_on + 1us
.meas tran max_p MAX V(nc_02)
.meas TRAN max_p_t when V(nc_02)=0.99*max_P
.meas pre_pulse_loss FIND V(nc_01) AT c_T_on + (3*transition_t) + (2*first_pulse_t)
.meas TRAN total_loss FIND V(nc_01) AT total_sim_time
.backanno
.end
